US04755012
A mixture of 1,4,5,8-tetrachloroanthraquinone (34.6 parts) and p-toluidine (214 parts) was allowed to react at 190° C. for 15 hours. Thereafter, the reaction mixture was cooled, and the precipitate was collected on a suction filter, washed four times with methanol (500 parts) and then twice with hot water (500 parts), and dried to obtain 1,4,5,8-tetra(4'-methylphenylamino)anthraquinone (48.7 parts) as a black solid. The product was recrystallized from toluene to obtain a dark green crystal. The melting point and maximum absorption wave lenggh (λmax measured in acetone) were found to be 268° to 275° C. and 760 nm, respectively.

reactant | 1,4,5,8-tetrachloroanthraquinone | ClC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)Cl)Cl)=O)Cl | C14H4Cl4O2
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
product | 1,4,5,8-tetra(4'-methylphenylamino)anthraquinone | CC1=CC=C(C=C1)NC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)NC1=CC=C(C=C1)C)NC1=CC=C(C=C1)C)=O)NC1=CC=C(C=C1)C | C42H36N4O2
